Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:9]([H:10])([H:11])[H:12].[H:1][C:2]#[C:3][C@:4]([H:5])([O:6][H:7])[O:8]>>[H:1][C:2]#[C:3][C@@:4]([H:5])([O:6][H:7])[O:8][C:9]([H:10])([H:11])[H:12],-3.8539429240900014
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:10]=[C:11]([H:12])[H:13].[H:9]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13],-1.71291315314
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])([H:15])[H:16]>>[H:16].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])[H:15],4.21792725181
[H:1][O:2][C:3]([H:4])[C:5]#[C:6][O:7][C:8]([H:9])[H:10]>>[H:1][O:2]/[C:3]([H:4])=[C:5]1/[C:6][O:7][C:8]1([H:9])[H:10],-1.44780233286
[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][H:10]>>[C:9][H:10].[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8],10.6206162522
[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])[C:4]([H:5])=[O:6],3.59381544273
[H:1][C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:10].[H:1][C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]=[C:11]([H:12])[H:13],4.70761953097
[H:1][O:2]/[C:3]([O:4][C:5]([H:6])[H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2]/[C:3]([O:4][C:5]([H:6])[H:7])=[C:8]/[C:10]([H:11])([H:12])[H:13].[H:9],5.28687993489
[O:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:7].[O:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],2.83649302346
[O:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[O:1][O:2][C:3][C:4]([H:5])[H:6],4.01015193973
[H:1][O:2][C:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[O:11][H:12]>>[C:9]([H:10])[O:11][H:12].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7][H:8],7.0057203372000005
[H:1][C:2]#[C:3][O:4][C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])[C:9]([H:10])([H:11])[H:12].[O:7][H:8],5.67400606255
[H:1][C:2]([H:3])([C:4]([C:6]([H:7])([H:8])[C:9](=[C:10]([H:11])[H:12])[H:13])[C:14]([H:15])([H:16])[H:17])[H:5]>>[H:1][C:2]([H:3])[C@@:4]1([H:5])[C:6]([H:7])([H:8])[C:9]1([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],0.0762257958295
[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]([O:8][H:9])=[C:10]([H:11])[H:12]>>[H:1][C:2]=[C:3]([H:4])[O:6][C:7]([O:8][H:9])=[C:10]([H:11])[H:12].[H:5],1.61709366197
[C:1]=[C:2]([O:3][O:4])[C:9]([H:10])([H:11])[H:12].[C:5]([H:6])([H:7])[H:8]>>[C:1]=[C:2]([O:3][O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-2.96893725678
[H:1][O:2][C:3]/[C:4]([O:5][H:6])=[C:7](\[H:8])[C:10]([H:11])([H:12])[H:13].[H:9]>>[H:1][O:2]/[C:3]=[C:4](\[O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-2.6344889235
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:12].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8](=[C:9]([H:10])[H:11])[C:13]([H:14])([H:15])[H:16],2.00189273473
[C:1]#[C:2][C@:4]([H:5])([C:6]#[C:7][H:8])[O:9][H:10].[H:3]>>[C:1]=[C:2]([H:3])[C@@:4]([H:5])([C:6]#[C:7][H:8])[O:9][H:10],-3.94330884754
[C:9]([H:10])([H:11])[H:12].[O:1]=[C:2][C:3]([O:4][H:5])=[C:6]([H:7])[H:8]>>[O:1]=[C:2]([C:3]([O:4][H:5])=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-3.92443467115
[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15].[H:1][C:2]#[C:3][H:4]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15],-1.41074438185
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]=[C:12]([H:13])[H:14]>>[C:11]=[C:12]([H:13])[H:14].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])[H:10],3.29670459269
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9](=[C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]=[C:10]([H:11])[H:12],4.44753664494
[C:9]([H:10])([O:11][H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[H:8]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C@@:9]([H:10])([O:11][H:12])[C:13]([H:14])([H:15])[H:16],-3.73780551501
[C:3]([H:4])[O:5][C:6][C:7]([H:8])([H:9])[H:10].[O:1]=[C:2]>>[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6][C:7]([H:8])([H:9])[H:10],-3.17859736241
[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[H:7].[C:8]([H:9])#[C:10][H:11]>>[C:1]=[C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])=[C:10][H:11],-0.399329972469
[H:1][O:2]/[C:3](=[C:4]\[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:5]>>[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.95482203822
[H:1][C:2][C:3]([H:4])([H:5])[O:6][O:7][C:8]([H:9])=[C:10][H:11]>>[H:1][C:2]=[C:3]([H:4])[H:5].[O:6][O:7][C:8]([H:9])=[C:10][H:11],0.08242292505110001
